US05190951
To 1.74 gm of 9-aminofuro[3,4-b]quinolin-1(3 H)-one was added 3.20 gm of 4-aminobutyl-1-benzylpiperidine, and the mixture was heated in a sealed tube for 6 hours at 200° C. while stirring. After cooling, the reaction mixture was recrystallized from ethyl acetate to obtain 3.00 gm of 9-amino- 2-(4-(1-benzYIpiperidYl)butyl)-2,3-dihydropyrrolo[3,4-b]quinolin-1-one (Compound (I) with R1 =R3 =H, R2 =NH2, A=>N-(CH2)n -, Y=>C=O, m=1, and n=4).

reactant | 9-aminofuro[3,4-b]quinolin-1(3 H)-one | 1.74 gm | NC1=C2C(=NC=3C=CC=CC13)COC2=O | C11H8N2O2
reactant | 4-aminobutyl-1-benzylpiperidine | 3.20 gm | NCCCCC1N(CCCC1)CC1=CC=CC=C1 | C16H26N2
product | 9-amino- 2-(4-(1-benzYIpiperidYl)butyl)-2,3-dihydropyrrolo[3,4-b]quinolin-1-one | 3.00 gm | NC1=C2C(=NC=3C=CC=CC13)CN(C2=O)CCCCC2N(CCCC2)CC2=CC=CC=C2 | C27H32N4O
